US04474754
8(a). Preparation of H-Gln-NHNHBoc
16.00 Grams of Z-Gln-NHNHBoc was suspended in 100 ml of methanol, a small amount of palladium black was added thereto and stirred for 18 hours under the condition of introducing hydrogen gas. After completion of the reaction, the catalyst was removed by suction filtration, the filtrate was subjected to distillation under a reduced pressure, the residue thus obtained was dried under a reduced pressure in a desiccator to obtain the desired product.

reactant | Z-Gln-NHNHBoc | N([C@@H](CCC(N)=O)C(=O)NNC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C18H26N4O6
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium black | [Pd] | Pd
product | H-Gln-NHNHBoc | N[C@@H](CCC(N)=O)C(=O)NNC(=O)OC(C)(C)C | C10H20N4O4
